US05914328
67a 3-((1-BOC-2-(S)-azetidinyl)methoxy)-5-bromopyridine
A 619.3 mg (3.31 mmol) sample of-1-BOC-2-(S)-azetidinemethanol, prepared as in Example 7b above, and 480 mg (2.76 mmol) of 5-bromo-3-hydroxypyridine, from Example 65b above, were reacted with triphenylphosphine and DEAD (3.31 mmol each) in 10 mL of THF according to the procedure of Example 14a, to give 887 mg of the title compound. MS (DCI/NH3) m/e 243/246 (M+H)+, 260/262 (M+NH4)+. 1H NMR (CDCl3, 300 MHz) δ: 8.35-8.25 (br, 2H), 7.44 (s, 1H), 4.55-4.47 (m, 1H), 4.39-4.29 (m, 1H), 4.16-4.10 (m, 1H), 3.98-3.85 (m, 2H), 2.42-2.33 (m, 2H), 1.42 (s, 9H).

reactant | of-1 BOC-2-(S)-azetidinemethanol | CC1=C(C=CC(=C1)Br)S(=O)(=O)NC2=C(C=C3C(=C2)N(C(=O)N3C)C)OC.C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO
reactant | 5-bromo-3-hydroxypyridine | 2.76 mmol, 480 mg | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 3.31 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-((1-BOC-2-(S)-azetidinyl)methoxy)-5-bromopyridine | 887 mg | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)Br | C14H19BrN2O3
